US05387710
A mixture of N-methoxycarbonyl-O-methyl-L-tyrosine benzyl ester (14.5 g), 10% palladium on carbon (0.73 g), and tetrahydrofuran (145 ml)-water (14.5 ml) was shaken under hydrogen at ambient temperature for 2 hours. An additional 10% palladium on carbon (0.73 g) was added to the mixture and shaking was continued for an additional 2 hours. The catalyst was filtered off and washed with tetrahydrofuran. The filtrate and washings were combined and concentrated in vacuo to afford N-methoxycarbonyl-O-methyl-L-tyrosine (10.5 g).

reactant | N-methoxycarbonyl-O-methyl-L-tyrosine benzyl ester | 14.5 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC)CC1=CC=C(C=C1)OC)=O | C19H21NO5
reactant | tetrahydrofuran | 145 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.73 g | [Pd] | Pd
catalyst | palladium on carbon | 0.73 g | [Pd] | Pd
solvent | water | 14.5 ml | O | H2O
product | N-methoxycarbonyl-O-methyl-L-tyrosine | 10.5 g | COC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C12H15NO5
